US04556738
To a closed glass vessel equipped with a thermometer and a stirrer, there are charged 105.3 g (0.3 moles) of 3,3'-dinitro-4-bromo benzophenone, 5 g of 5% palladium/active carbon catalyst (available from Nihon-Engelhardt Co.) and 300 ml of dioxane. With the mixture being stirred at 70°-80° C., hydrogen is introduced into the vessel so that 40.5 l (1.81 moles) of hydrogen is absorbed in the mixture over about 8 hours. Then, after 33 g (0.33 moles) of 40% aqueous solution of caustic soda is added, hydrogen is further introduced at 70°-80° C. with the mixture being stirred so that an additional 7.2 l (0.32 moles) is absorbed during three hours. The reaction liquid is filtered at 70°-80° C. so as to remove the catalyst and then allowed to cool giving yellow needle-like crystals of 3,3'-diamino benzophenone. The crystals is filtered, washed with 30 ml of 50% aqueous solution of dioxane, and dried. Yield 93% (59.2 g). M.P. 149°-150° C.

reactant | 3,3'-dinitro-4-bromo benzophenone | 0.3 moles, 105.3 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1Br | C13H7BrN2O5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.81 moles, 40.5 l | [H][H] | H2
catalyst | palladium | 5 g | [Pd] | Pd
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3,3'-diamino benzophenone | Yield 93% | NC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1 | C13H12N2O
